US07208493B2
2-(4-Hydroxy-phenoxy)-N-[2-(1H-indol-2-yl)-phenyl]-acetamide
Prepared from 2-(2-aminophenyl) indole and (4-hydroxyphenoxy) acetic acid in 30% yield following procedure 1. The product was crystallized from methanol. 89% Purity by LC/MS (230 DAD), Mass-spec [M+H+]=359, 1H NMR (MeOH-d4): 4.52 s (2H), 6.55 d, 9 Hz (2H), 6.58 s (1H), 6.61 d, 9 Hz (2H), 7.09 t, 8 Hz (1H), 7.18 t, 8 Hz (1H), 7.26 t, 8 Hz (1H), 7.37–7.43 m (2H), 7.56 t, 8 Hz (2H), 8.38 d, 8 Hz (1H).

reactant | 2-(2-aminophenyl) indole | NC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C14H12N2
reactant | (4-hydroxyphenoxy) acetic acid | OC1=CC=C(OCC(=O)O)C=C1 | C8H8O4
product | 2-(4-Hydroxy-phenoxy)-N-[2-(1H-indol-2-yl)-phenyl]-acetamide | 30% yield | OC1=CC=C(OCC(=O)NC2=C(C=CC=C2)C=2NC3=CC=CC=C3C2)C=C1 | C22H18N2O3
